US04556672
5,6-Dimethoxy-2-oxindole-1-carboxamide
Following the procedure of Example 24, the title compound was prepared from 5,6-dimethoxy-2-oxindole (8.0 g, 0.042 mole), chlorosulfonyl isocyanate (7.08 g, 0.05 mole) and acetonitrile (75 ml). The crude product obtained upon evaporation of the ethyl acetate extract was recrystallized from acetonitrile/acetic acid (1:1). Yield=6.02 g (60%); m.p. 206.5°-209° C.

reactant | 5,6-dimethoxy-2-oxindole | 0.042 mole, 8.0 g | COC=1C=C2CC(NC2=CC1OC)=O | C10H11NO3
reactant | chlorosulfonyl isocyanate | 0.05 mole, 7.08 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-Dimethoxy-2-oxindole-1-carboxamide | COC=1C=C2CC(N(C2=CC1OC)C(=O)N)=O | C11H12N2O4
